US07968720B2
Cyclopropanecarboxylic Acid 4-chloro-3-formyl-benzylamide
MnO2 (6.29 g, 72.0 mmol) was added to a sol. of cyclopropanecarboxylic acid 4-chloro-3-hydroxymethyl-benzylamide (3.47 g, 14.0 mmol) in CH3CN (300 mL) at rt. The mixture was stirred for 3 h at rt, and MnO2 (2.52 g, 29.0 mmol) was added again. The mixture was stirred for 1 h at rt, and MnO2 (1.26 g, 14.0 mmol) was added again. The mixture was stirred for 1.5 h, and was filtered through celite. The filtrate was evaporated under reduced pressure, and the residue was dried under high vacuum to yield the crude title compound (3.13 g, 91%) that was used further without purification. LC-MS: tR=0.80 min; ES+: 279.31.

reactant | cyclopropanecarboxylic acid 4-chloro-3-hydroxymethyl-benzylamide | 14.0 mmol, 3.47 g | ClC1=C(C=C(CNC(=O)C2CC2)C=C1)CO | C12H14ClNO2
solvent | CH3CN | 300 mL | CC#N | C2H3N
catalyst | MnO2 | 72.0 mmol, 6.29 g | O=[Mn]=O
catalyst | MnO2 | 29.0 mmol, 2.52 g | O=[Mn]=O
catalyst | MnO2 | 14.0 mmol, 1.26 g | O=[Mn]=O
product | Cyclopropanecarboxylic Acid 4-chloro-3-formyl-benzylamide | 3.13 g, 91% | ClC1=C(C=C(CNC(=O)C2CC2)C=C1)C=O | C12H12ClNO2
